US04180675
Dimethyl 2-oxo-2-(3-propylcyclopentyl)ethylphosphonate
17 ml. of a 2 M solution of n-butyllithium in diethyl ether were added dropwise with stirring, under an atmosphere of nitrogen, to a solution of 4.2 g. of dimethyl methylphosphonate in 40 ml. of dry tetrahydrofuran at -50° to -60° C. After stirring for 10 minutes, 2.9 g. of 1-methoxycarbonyl-3-propylcyclopentane in 10 ml. of dry tetrahydrofuran were added dropwise at -78° C. and the reaction mixture was stirred for 4 hours at -78° C. and further stirred overnight at 0° C. The reaction mixture was then acidified with acetic acid and concentrated under reduced pressure. The residue was diluted with diethyl ether, washed with water, dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using ethyl acetate as eluent to give 3.1 g. of the title compound having the following physical characteristics:

reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethyl methylphosphonate | CP(OC)(OC)=O | C3H9O3P
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1-methoxycarbonyl-3-propylcyclopentane | COC(=O)C1CC(CC1)CCC | C10H18O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Dimethyl 2-oxo-2-(3-propylcyclopentyl)ethylphosphonate | O=C(CP(OC)(OC)=O)C1CC(CC1)CCC | C12H23O4P
